US07795283B2
v) Ethyl (3-{4-[(diphenylmethylene)amino]phenyl}cyclohexyl)acetate
Ethyl [3-(4-{[(trifluoromethyl)sulphonyl]oxy}phenyl)cyclohexyl]acetate (322 mg, 0.85 mmol) was stirred in dry THF (8 mL) under a nitrogen atmosphere and caesium carbonate (387 mg, 1.19 mmol), palladium(II) acetate (12 mg, 0.05 mmol) and BINAP (32 mg, 0.05 mmol) were added followed by benzophenone imine (0.214 mL, 1.27 mmol). The reaction vessel was degassed 6 times and stirred under reflux for 16 h. The mixture was extracted with ether (2×100 mL) and washed with water (100 mL). The organic extracts were dried and concentrated by evaporation to give an oil that was purified by chromatography eluting with 0-30% EtOAc/isohexane to give the title compound (137 mg, 38%) as an oil; 1H NMR δ 0.81-2.48 (m, 9H), 1.12-1.21 (m, 3H), 2.58-2.72 (m, 1H), 3.97-4.12 (m, 2H), 6.57-6.65 (m, 1H), 6.94-7.04 (m, 1H), 7.10-7.18 (m, 1H), 7.29-7.36 (m, 1H), 7.37-7.78 (m, 10H); MS m/e MH+ 426.

reactant | Ethyl [3-(4-{[(trifluoromethyl)sulphonyl]oxy}phenyl)cyclohexyl]acetate | 0.85 mmol, 322 mg | FC(S(=O)(=O)OC1=CC=C(C=C1)C1CC(CCC1)CC(=O)OCC)(F)F | C17H21F3O5S
reactant | caesium carbonate | 1.19 mmol, 387 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.05 mmol, 32 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | benzophenone imine | 1.27 mmol, 0.214 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | THF | 8 mL | C1CCOC1 | C4H8O
catalyst | palladium(II) acetate | 0.05 mmol, 12 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl (3-{4-[(diphenylmethylene)amino]phenyl}cyclohexyl)acetate | 137 mg, 38% | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC1=CC=C(C=C1)C1CC(CCC1)CC(=O)OCC | C29H31NO2
